US04113873
4 g of dl-5-hydroxymethyl-2-pyrrolidone are dissolved in 20 ml of chloroform, and 0.1 g of trichloroacetic acid and 16 ml of vinylethylether are added thereto. The solution is stirred at room temperature for 4 hours. After the reaction, the solution is cooled with ice-water, and washed with an aqueous sodium bicarbonate solution. The washings is extracted with chloroform. Then, the reaction solution and chloroform extract are combined, and the combined mixture is washed with water saturated with ammonium sulfate, dried and evaporated to remove solvent. The residue thus obtained is distilled under reduced pressure. dl-5-[1-(Ethoxy)ethoxy-methyl]-2-pyrrolidone is obtained as pale yellow oil. Yield: 6.45 g. B.p. 137°-138° C./1.5 mmHg

reactant | dl-5 hydroxymethyl-2-pyrrolidone | 4 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.OCN1C(CCC1)=O
reactant | trichloroacetic acid | 0.1 g | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
reactant | vinylethylether | 16 ml | C(=C)OCC | C4H8O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | dl-5 [1-(Ethoxy)ethoxy-methyl]-2-pyrrolidone | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.C(C)OC(C)OCN1C(CCC1)=O | InChI=1S/C18H34N4O2.C9H17NO3/c1-24-18-14-16(6-7-17(18)23)15-22-13-5-12-21-10-3-2-9-20-11-4-8-19;1-3-12-8(2)13-7-10-6-4-5-9(10)11/h6-7,14,20-23H,2-5,8-13,15,19H2,1H3;8H,3-7H2,1-2H3
